US04880806
To a solution of 3,4-difluoroacetanilide (85.5 g) in sulfuric acid (850 ml) is added gradually with stirring potassium nitrate (55.5 g) at room temperature during which the temperature raises to 60° C. The mixture is stirred at 60° C. for one hour. The reaction mixture is poured into ice water, and the precipitated crystals are taken by filtration. The precipitates are dissolved in dichloromethane and washed with aqueous sodium hydrogen carbonate, water and aqueous sodium hydrogen carbonate, water and aqueous saturated sodium chloride in this order and dried. The solvent is removed by concentration and washed with n-hexane. The resulting crystals are taken by filtration and dried to give 2-nitro-4,5-difluoroaniline (54 g).

reactant | 3,4-difluoroacetanilide | 85.5 g | CC(=O)NC1=CC(=C(C=C1)F)F | C8H7F2NO
reactant | potassium nitrate | 55.5 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 850 ml | S(O)(O)(=O)=O | H2O4S
product | 2-nitro-4,5-difluoroaniline | 54 g | [N+](=O)([O-])C1=C(N)C=C(C(=C1)F)F | C6H4F2N2O2
